US07902400B2
To a mixture of 10 ml of THF and 0.20 g of 3-methoxy-4-(2-propynyloxy)benzoyl chloride were added dropwise 0.22 g of cyclohexylmethylamine and 0.20 g of triethylamine in order under ice cooling The mixture obtained was stirred at room temperature for 4 hours. Then, the reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.22 g of N-cyclohexylmethyl-4-(2-propynyloxy)-3-methoxybenzamide (hereinafter, described as the compound 17 of the present invention) represented by the formula:

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 3-methoxy-4-(2-propynyloxy)benzoyl chloride | 0.20 g | COC=1C=C(C(=O)Cl)C=CC1OCC#C | C11H9ClO3
reactant | cyclohexylmethylamine | 0.22 g | C1(CCCCC1)CN | C7H15N
solvent | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
product | N-cyclohexylmethyl-4-(2-propynyloxy)-3-methoxybenzamide | 0.22 g | C1(CCCCC1)CNC(C1=CC(=C(C=C1)OCC#C)OC)=O | C18H23NO3
